US08703810B2
Step 2: 2-Fluoro-3,6-dimethoxybenzoic acid
To a mixture of ethyl 2-fluoro-3,6-dimethoxybenzoate (8.1 g, 35.5 mmol) in methanol (150 mL) and water (50 mL), lithium hydroxide (7.5 g, 178 mmol) was added. The resulting mixture was heated at 80° C. for 5 h. The reaction mixture was concentrated to remove methanol, acidified with 2 M HCl until pH 4, and extracted with dichloromethane (4×200 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to give the title compound (6.98 g). 1H NMR (DMSO-d6): δ 13.39 (br s, 1H), 7.19 (t, 1H), 6.82 (dd, 1H), 3.79 (s, 3H), 3.75 (s, 3H).

reactant | ethyl 2-fluoro-3,6-dimethoxybenzoate | 35.5 mmol, 8.1 g | FC1=C(C(=O)OCC)C(=CC=C1OC)OC | C11H13FO4
reactant | lithium hydroxide | 178 mmol, 7.5 g | [OH-].[Li+]
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-Fluoro-3,6-dimethoxybenzoic acid | 6.98 g | FC1=C(C(=O)O)C(=CC=C1OC)OC | C9H9FO4
